US05532237
Step 1: 2-[5-methoxy-2-methyl-1H-indol-3-yl]-1-[morpholin-4-yl]ethanone
To 5-methoxy-2-methyl-3-indoleacetic acid (0.665g; 3.03 mmol) in 6 mL of THF was added DCC (0.661 g; 3.2 mmol). After 2 h of stirring, morpholine (1 mL; 11.4 mmol) was added and stirred for another 1 h. The reaction mixture was filtered and the solvent removed. Chromatography on silica gel (eluted with EtOAc) yielded 0.585 g (64%) of the title compound.

reactant | 5-methoxy-2-methyl-3-indoleacetic acid | 3.03 mmol, 0.665g | COC=1C=C2C(=C(NC2=CC1)C)CC(=O)O | C12H13NO3
reactant | DCC | 3.2 mmol, 0.661 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | morpholine | 11.4 mmol, 1 mL | N1CCOCC1 | C4H9NO
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-[5-methoxy-2-methyl-1H-indol-3-yl]-1-[morpholin-4-yl]ethanone | 0.585 g, 64% | COC=1C=C2C(=C(NC2=CC1)C)CC(=O)N1CCOCC1 | C16H20N2O3
